US08703953B2
A mixture of 2,4-dichloronicotinaldehyde (1.1 g, 6.25 mmol), 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (0.942 g, 7.50 mmol), Cs2CO3 (6.11 g, 18.75 mmol) and PdCl2(dppf) (0.229 g, 0.312 mmol) in 1,4-dioxane (9 mL) and water (1 mL) was heated at 100° C. for 18 h. After cooling, the mixture was diluted with ethyl acetate (15 mL) and water (20 mL). The ethyl acetate layer was dried over Na2SO4, concentrated and purified by silica gel chromatography to afford 4-chloro-2-methylnicotinaldehyde (0.16 g, 1.028 mmol, 16% yield) as a yellow solid 1H NMR (400 MHz, CDCl3) δ 10.69 (s, 1H), 8.52 (d, J=7.2 Hz, 1H), 7.32 (d, J=7.2 Hz, 1H), 2.83 (s, 3H).

reactant | 2,4-dichloronicotinaldehyde | 6.25 mmol, 1.1 g | ClC1=C(C=O)C(=CC=N1)Cl | C6H3Cl2NO
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 7.50 mmol, 0.942 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | Cs2CO3 | 18.75 mmol, 6.11 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | PdCl2(dppf) | 0.312 mmol, 0.229 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-chloro-2-methylnicotinaldehyde | 1.028 mmol, 0.16 g, 16% yield | ClC1=CC=NC(=C1C=O)C | C7H6ClNO
